US05385910
1-(9H-Fluoren-9-ylmethoxycarbonylamino)-cyclopentane carboxylic acid
To a chilled (ice bath) suspension of aminocyclopentanecarboxylic acid (1.05 g, 8.13 mmol) in alumina-filtered dioxane (8 mL) was added 10% Na2CO3 (16.5 mL). The reaction mixture became clearer (but not completely clear) after 10% Na2CO3 was added. A solution of a fluorenylmethyl chloroformate (2.11 g, 8.16 mmol in 12 mL dioxane) was then slowly added to the reaction mixture, which became (and remained) cloudy. The reaction mixture was allowed to warm to room temperature (~20° C.) and was stirred overnight under N2. The reaction mixture was poured into ice water (~150 mL) and extracted three times with anhydrous ether. (Some product went into the ether layer). The aqueous layer was chilled in an ice bath, acidified with concentrated HCl to pH of about 2, and extracted three times with ethyl acetate (3×50 mL). The combined ethyl acetate layers were washed with 0.1N HCl and H2O. The ether and ethyl acetate layers were dried over MgSO4, combined and concentrated. Flash chromatography (40-50% ethyl acetate/hexane) gave the title compound as a white foam in a yield of 16.6% (0.476 g (1.35 mmol). DEI m+@m/z 351.

reactant | aminocyclopentanecarboxylic acid | 8.13 mmol, 1.05 g | NC1(CCCC1)C(=O)O | C6H11NO2
reactant | fluorenylmethyl chloroformate | 8.16 mmol, 12 mL, 2.11 g | ClC(=O)OCC1=CC=CC=2C3=CC=CC=C3CC12 | C15H11ClO2
product | 1-(9H-Fluoren-9-ylmethoxycarbonylamino)-cyclopentane carboxylic acid | yield of 16.6% | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)NC1(CCCC1)C(=O)O | C21H21NO4
